US05399542
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-(3-chloropropyl)-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one
To 50 mL of absolute ethanol were added in sequence 1.6 g (4.1 mmol) of 2-propionyl-3-hydroxy-5-(N-(3-chloropropyl)-3-oxo-(2H)-1,4-benzoxazin-6-yl)-cyclohex-2-en-1-one, 0.32 g (3.4 mmol) of ethoxyamine hydrochloride and 0.27 g (3.3 mmol) of anhydrous sodium acetate. The resulting mixture was stirred at ambient temperature for 2.5 hours. The reaction mixture was then diluted with 200 mL of water and extracted twice with 50 mL portions of dichloromethane. The extracts were combined, dried over MgSO4 and filtered. Evaporation off of the solvent gave the crude product as a yellow oily residue. Flash chromatography on silica gel eluting with 20 percent acetone/hexane afforded the above-named product as a pale glassy oil in a yield of 1.0 g (56 percent of theoretical). 1H NMR (CDCl3): d1.05-1.43 (m, 6H, both --CH2CH3 's), 2.15 (p, J=7 Hz, 2H,--CH2CH2Cl and --CH2Cl), 4.57 (s, 2H, --OCH2C=O), 6.83-7.00 (m, 3H, aromatic H's), 14.9 (broad s, 1H, enol H); (Compound 9).

reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | 2-propionyl-3-hydroxy-5-(N-(3-chloropropyl)-3-oxo-(2H)-1,4-benzoxazin-6-yl)-cyclohex-2-en-1-one | 4.1 mmol, 1.6 g | C(CC)(=O)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)CCCCl)C1)=O | C20H22ClNO5
reactant | ethoxyamine hydrochloride | 3.4 mmol, 0.32 g | Cl.C(C)ON
reactant | sodium acetate | 3.3 mmol, 0.27 g | C(C)(=O)[O-].[Na+]
solvent | water | 200 mL | O | H2O
solvent | acetone hexane | CC(=O)C.CCCCCC
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-(3-chloropropyl)-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)CCCCl)C1)=O | C22H27ClN2O5
